Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fevers, lethargy, rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M presenting with fevers, fatigue and back rash. Patient 
first noticed 3 bumps on his back one week ago. He though they 
were acne and tried to express them and states that they were 
not initially either painful or itchy. He does not remember any 
insect or tick bites, though he went camping over ___ 
___. About four days ago, he noticed that the bumps had 
become painful and there was redness around them. The redness 
and swelling continued to spread and two days ago he began to 
have fevers/chills and lethargy. He was seen by his PCP two days 
ago and was given Keflex for presumed cellulitis which the 
patient took for two days. He had continued spreading of the 
erythema along with fever and chills despite the Keflex. 

He also endorses having some dysuria on ___, no hematuria, 
frequency or urgency. Of not patient also received injection 

In the ED, initial vitals: 98.8 73 116/70 18 99% RA  
 - Exam notable for: "pt with abscess to lower back, middle in 
location with surrounding redness"  
 - Labs notable for: normal chem panel, no WBC, U/A = neg leuks 
and nitrates, lyme serologies were sent in ED.  
 - Pt given:  
 ___ 14:56 IV Ketorolac 30 mg  
 ___ 14:56 IVF 1000 mL NS 1000 mL  
 ___ 15:59 IV Doxycycline Hyclate 100 mg  
 ___ 18:14 IVF 1000 mL NS 1000 mL  
 ___ 18:14 PO Acetaminophen 1000 mg  
 - Vitals prior to transfer: T 101 HR 81 BP 127/83 RR 18 100% RA 
 

 
Past Medical History:
Cervical Radiculopathy  
Hernia Repair (___) 
Anxiety and Depression
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM
==============

Vitals: T 98.4; BP 117/71; HR 67; O2 95% on RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear  
 Neck: supple, JVP not elevated, no LAD  
 Lungs: CTAB no wheezes, rales, rhonchi  
 CV: RRR, Nl S1, S2, No MRG  
 Abdomen: soft, NT/ND bowel sounds present, no rebound 
tenderness or guarding, no organomegaly  
 GU: no foley, tender right inguinal LAD  
 Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CN2-12 intact, no focal deficits  

DISCHARGE EXAM
==============

Vitals: 98.1 | 115/61 | 62 | 16 | 96% RA 
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, ___ SEM heard best 
at LUSB
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Back: 20cm circular area of erythema with some central clearing 
consistent with erythema migrans with smaller central 6cm area 
of erythema with induration with several 1cm coalescing 
violaceous papules with some ulceration. 
GU: no foley, tender R inguinal LAD  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal 

 
Pertinent Results:
ADMISSION LABS
==============

___ 01:36PM   PLT COUNT-241
___ 01:36PM   NEUTS-79.1* LYMPHS-11.4* MONOS-8.5 EOS-0.2* 
BASOS-0.5 IM ___ AbsNeut-7.27* AbsLymp-1.05* AbsMono-0.78 
AbsEos-0.02* AbsBaso-0.05
___ 01:36PM   WBC-9.2 RBC-4.70 HGB-15.1 HCT-44.7 MCV-95 
MCH-32.1* MCHC-33.8 RDW-12.0 RDWSD-42.4
___ 01:36PM   ALBUMIN-4.5
___ 01:36PM   ALT(SGPT)-35 AST(SGOT)-34 ALK PHOS-58 TOT 
BILI-0.6
___ 01:36PM   GLUCOSE-123* UREA N-14 CREAT-1.0 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-30 ANION GAP-14
___ 01:58PM   LACTATE-1.5
___ 02:55PM URINE  MUCOUS-MOD
___ 02:55PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 02:55PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-2* PH-6.0 
LEUK-NEG
___ 02:55PM URINE  COLOR-Yellow APPEAR-Clear SP ___

DISCHARGE LABS
==============

___ 05:39AM BLOOD WBC-7.1 RBC-4.17* Hgb-13.1* Hct-39.3* 
MCV-94 MCH-31.4 MCHC-33.3 RDW-12.2 RDWSD-41.8 Plt ___
___ 05:39AM BLOOD Glucose-91 UreaN-10 Creat-1.1 Na-135 
K-4.2 Cl-100 HCO3-25 AnGap-14

IMAGING
=======

US EXTREMITY LIMITED SOFT TISSUE RIGHT ___:
Inflammation with no drainable fluid collection.
 
Brief Hospital Course:
___ with no significant PMH presenting with rash x 1 week that 
started with red bumps now with spreading erythema and fever 
concerning for possible lyme disease with superimposed 
cellulitis.  

#Rash, fevers: Likely vesicular erythema migrans with 
superimposed cellulitis. Dermatology was consulted, and they 
agreed with the diagnosis. EKG WNL, and no e/o disseminated Lyme 
disease. Pt was initially treated with IV doxycycline, and was 
transitioned to PO doxycycline for a 21-day course. Pt was 
counseled extensively on the importance of using sun protection 
and he was counseled on strategies for prevention of pill 
esophagitis. Pt was also given the number to dermatology for 
further workup.

#Dysuria: Patient complained of dysuria for one day prior to 
admission. He denied urinary frequency, urgency, hematuria. 
Patient denied any history of STIs or risky sexual practices. 
U/A in ED was unremarkable. Patient's dysuria resolved and 
further work-up was deferred.

#EtOH use: Patient drinks ___ drinks per day. Patient was placed 
on CIWA scales during hospitalization, but exhibited no signs of 
withdrawal. 

CHRONIC ISSUES
==============

# Cervical radiculopathy: Continued home gabapentin

# Anxiety/Depression: Continued home zoloft

Transitional Issues:
-f/u with PCP ___ ___ days to ensure improvement in rash
-Doxycycline 100mg Q12h for 21d course (d1 = ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO TID 
2. Sertraline 50 mg PO DAILY 

 
Discharge Medications:
1. Gabapentin 300 mg PO TID 
2. Sertraline 50 mg PO DAILY 
3. Doxycycline Hyclate 100 mg PO Q12H Duration: 14 Days 
Stay well hydrated to avoid pill esophagitis. Wear sunscreen and 
cover your skin when outside. 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fevers and rash

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the ___ complaining of a spreading rash and 
fevers. We think your symptoms are most likely due to Lyme 
disease with a simultaneous skin infection (cellulitis). You 
were given doxycycline and your fevers and rash began to 
improve. You should continue to take the doxycycline for the 
full 21-day course, even if you begin to feel better. It is 
important that while you are taking the doxycycline you stay 
well hydrated and drink a lot of water to prevent pill 
esophagitis (burning of the esophagus). This medication also 
causes sun sensitivity, so it is important that you use 
sunscreen and cover your skin when you go outside to avoid sun 
burns. You should follow-up with your primary care physician ___ 
___ days to ensure that your rash is continuing to heal. You can 
also call the ___ clinic to schedule a follow up 
appointment with them.

It was a pleasure caring for you. We wish you well!

Sincerely, 

Your ___ Care Team
 
Followup Instructions:
___